US07465803B2
To the so obtained solution, a solution of the acetylsalicylic acid chloride (16 g, 0.08 moles) in toluene (50 ml) is added under stirring at the temperature of 5-10° C. The mixture is maintained at a temperature within the above range, under stirring for 2 hours, then poured into water and then extracted with dichloromethane (2×100 ml). The organic phase is separated, washed in sequence with a solution of potassium carbonate at 25% w/v, with water, with a 3% hydrochloric acid solution and finally again with water, then anhydrified with sodium sulphate and the solvent evaporated under reduced pressure. The residue is crystallized from isopropanol. 3-hydroxymethyl phenyl ester of the 2-acetoxybenzoic acid (45.8 g, 0.16 moles, yield 80%) is obtained.

reactant | acetylsalicylic acid chloride | 0.08 moles, 16 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxybenzoic acid | 0.16 moles, 45.8 g, yield 80% | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
